US09108953B2
Preparation of N-cyclopentyl-2-cyclopropyl-7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamide
A mixture of 2-chloro-N-cyclopentyl-7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamide (23 mg, 0.057 mmol), cyclopropaneboronic acid (50 mg, 10 equiv) dppf PdCl2 (8 mg, 20 mol %), potassium carbonate (60 mg) and dioxane (1 mL) was purged with nitrogen and heated at 110° C. for 1 hour. The reaction mixture was concentrated and purified by preparative HPLC to give the desired product, N-cyclopentyl-2-cyclopropyl-7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamide.

reactant | 2-chloro-N-cyclopentyl-7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamide | 0.057 mmol, 23 mg | ClC1=NC=2C=C(C=C(C2C=C1)S(=O)(=O)NC1CCCC1)C=1C(=NOC1C)C | C19H20ClN3O3S
reactant | cyclopropaneboronic acid | 50 mg, 10 equiv | C1(CC1)B(O)O | C3H7BO2
reactant | potassium carbonate | 60 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | N-cyclopentyl-2-cyclopropyl-7-(3,5-dimethylisoxazol-4-yl)quinoline-5-sulfonamide | C1(CCCC1)NS(=O)(=O)C=1C=2C=CC(=NC2C=C(C1)C=1C(=NOC1C)C)C1CC1 | C22H25N3O3S
